US05128362
5,6-Ethylenedioxy-1-tetralone
5,6-Dihydroxy-1-tetralone (6 g) was heated at 125° C. with 1,2-dichloroethane (7 ml) and K2CO3 (14 g) in DMSO (70 ml) under N2 for 45 min. The reaction was quenched with ice water then extracted with Et2O. The aqueous layer was removed, then EtOAc added to the remaining organics. This solution was dried (MgSO4), filtered and evaporated to qive the desired product.

reactant | 5,6-Dihydroxy-1-tetralone | 6 g | OC1=C2CCCC(C2=CC=C1O)=O | C10H10O3
reactant | 1,2-dichloroethane | 7 ml | ClCCCl | C2H4Cl2
reactant | K2CO3 | 14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 70 ml | CS(=O)C | C2H6OS
product | 5,6-Ethylenedioxy-1-tetralone | C1OC2=C3CCCC(C3=CC=C2OC1)=O | C12H12O3
